US08304446B2
1,1-Dimethylethyl 3-[[(5-chloro-2-thienyl)sulfonyl]({[2-(trimethylsilyl)ethyl]oxy}methyl)amino]-4-(methyloxy)-1H-indazole-1-carboxylate
To a solution of 1,1-dimethylethyl 3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazole-1-carboxylate (for a preparation see Intermediate 6) (2.21 g, 4.98 mmol) in DCM (20 mL) was added at 0° C. 2-(trimethylsilyl)ethoxymethyl chloride (1.23 mL, 6.97 mmol). Then was added at 0° C. in a dropwise fashion diisopropylamine (1.419 mL, 9.96 mmol) and the reaction mixture was stirred at room temperature. The reaction was quenched with water (50 mL), the organic layer was separated, and the aqueous layer was further extracted with 30 mL of DCM. The organic solutions were combined, dried with an hydrophobic frit and concentrated under reduced pressure to give a yellow oil that was used without further purification (3.12 g) LCMS (System A) RT=1.64 min, ES+ve m/z 574/576 (M+H)+.

reactant | 1,1-dimethylethyl 3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazole-1-carboxylate | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)C(=O)OC(C)(C)C | C17H18ClN3O5S2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 6.97 mmol, 1.23 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | diisopropylamine | 9.96 mmol, 1.419 mL | C(C)(C)NC(C)C | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 3-[[(5-chloro-2-thienyl)sulfonyl]({[2-(trimethylsilyl)ethyl]oxy}methyl)amino]-4-(methyloxy)-1H-indazole-1-carboxylate | ClC1=CC=C(S1)S(=O)(=O)N(C1=NN(C2=CC=CC(=C12)OC)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C23H32ClN3O6S2Si
